US08859574B2
To a solution of 5-chloro-N2-(2,5-dimethyl-4-(piperidin-4-yl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine (78 mg, 0.19 mmol) and TEA (0.52 mL, 3.78 mmol) in DCM (10 mL) was added 3-chloropropane-1-sulfonyl chloride (63 mg, 0.36 mmol, in 1 mL DCM). After stirring at rt for one hour, EtOAc (100 mL) was added. The mixture was sequentially washed with water (10 mL), brine (10 mL), dried over Na2SO4 and concentrated in vacuo. The crude product was purified by silica chromatography (0-100% EtOAc in hexanes gradient) to give 5-chloro-N2-(4-(1-(3-chloropropylsulfonyl)piperidin-4-yl)-2,5-dimethylphenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine as an off white solid; ESMS m/z 552.2 (M+H+).

reactant | 5-chloro-N2-(2,5-dimethyl-4-(piperidin-4-yl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine | 0.19 mmol, 78 mg | ClC=1C(=NC(=NC1)NC1=C(C=C(C(=C1)C)C1CCNCC1)C)NC1=NNC(=C1)C | C21H26ClN7
reactant | 3-chloropropane-1-sulfonyl chloride | 0.36 mmol, 1 mL, 63 mg | ClCCCS(=O)(=O)Cl | C3H6Cl2O2S
reactant | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-chloro-N2-(4-(1-(3-chloropropylsulfonyl)piperidin-4-yl)-2,5-dimethylphenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine | ClC=1C(=NC(=NC1)NC1=C(C=C(C(=C1)C)C1CCN(CC1)S(=O)(=O)CCCCl)C)NC1=NNC(=C1)C | C24H31Cl2N7O2S
